US06420424B1
b). (S)-Ethyl-2-benzoylamino-3-(4-nitrophenyl)propionate
(S)-Ethyl-2-amino-3-(4-nitrophenyl)propionate hydrochloride (1.23 g, 4.47 mmol) was suspended in dichloromethane (25 mL) and to this suspension was added benzoyl chloride (0.628 g, 4.47 mmol) and triethylamine (1.36 g, 13.4 mmol). The mixture was stirred overnight at room temperature under nitrogen. The crude reaction was washed with 5% HCl, water, brine, dried (Na2SO4), concentrated and purified by flash chromatography (silica gel, 2:1 hexanes:EtOAc) to afford the title compound as a white powder (0.865 g, 57%): MS(ES+) m/e 343 [M+H]; mp 99-101° C.

reactant | (S)-Ethyl-2-amino-3-(4-nitrophenyl)propionate hydrochloride | 4.47 mmol, 1.23 g | Cl.C(C)OC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N)=O
reactant | benzoyl chloride | 4.47 mmol, 0.628 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 13.4 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (S)-Ethyl-2-benzoylamino-3-(4-nitrophenyl)propionate | 0.865 g, 57% | C(C)OC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(C1=CC=CC=C1)=O)=O | C18H18N2O5
